US07105547B2
4.0 M HCl in 1,4-dioxane (25 mL) is added to {3-[3-fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester (1.05 g, 2.6 mmol), and the mixture is stirred at r.t. for 45 min. The solvent is removed under vacuum. Resulted residue is dissolved in excess MeOH and then evaporated again under vacuum to afford 1-[4-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluoro-phenyl]-2,3-dihydro-1H-pyridin-4-one hydrochloride as hydroscopic orange crystals. Yield 0.8 g (quant). MS (m/z): 306 [M+H]+.

reactant | HCl | 4.0 M | Cl | ClH
reactant | {3-[3-fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester | 2.6 mmol, 1.05 g | C(C)(C)(C)OC(NCC1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCC(C=C1)=O)F)=O | C20H24FN3O5
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 1-[4-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluoro-phenyl]-2,3-dihydro-1H-pyridin-4-one hydrochloride | Cl.NCC1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCC(C=C1)=O)F | InChI=1S/C15H16FN3O3.ClH/c16-13-7-10(19-9-12(8-17)22-15(19)21)1-2-14(13)18-5-3-11(20)4-6-18;/h1-3,5,7,12H,4,6,8-9,17H2;1H
